US04242518
3.6 parts by volume of sulfuryl chloride in 25 parts by volume of methylene chloride are added, at 0° C., to a solution of 8.76 parts of 3-phenylthio-4-dihydrothiophene-nitrile in 100 parts by volume of methylene chloride. During the reaction, nitrogen is passed into the mixture. The end product is isolated from the reaction mixture by the method described in Example 5c. 7.8 parts (90% of theory) of 3-phenylthio-4-thiophene-nitrile of melting point 32°-34° C. are obtained.

reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 3-phenylthio-4-dihydrothiophene-nitrile | C1(=CC=CC=C1)SC1CSC=C1C#N | C11H9NS2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-phenylthio-4-thiophene-nitrile | 90% | C1(=CC=CC=C1)SC1=CSC=C1C#N | C11H7NS2
